US08558001B2
Step 1—The preparation of N-(4-bromobenzyl)-2-chloro-3,6-difluorobenzamide
(4-Bromophenyl)methanamine hydrochloride (0.5 g, 2.25 mmol), 2-chloro-3,6-difluorobenzoic acid (0.52 g, 2.7 mmol), 2-(1H-7-azabenzotriazol-1-yl)-1,1,3,3-tetra methyl uronium hexafluorophosphate methanaminium (HATU) (1.2 g, 2.7 mmol), and N,N-diisopropyl-ethylamine (1.17 mL, 6.75 mmol) were combined in DMF (6 mL) and then stirred at room temperature for 1 h. The reaction mixture was diluted in ethyl acetate and washed once with water and twice with an aqueous saturated sodium bicarbonate solution. The organic phase was dried over magnesium sulfate, filtered and concentrated in vacuum. The crude product was suspended in hot acetonitrile and then filtered to have the pure compound N-(4-bromobenzyl)-2-chloro-3,6-difluorobenzamide.

reactant | (4-Bromophenyl)methanamine hydrochloride | 2.25 mmol, 0.5 g | Cl.BrC1=CC=C(C=C1)CN
reactant | 2-chloro-3,6-difluorobenzoic acid | 2.7 mmol, 0.52 g | ClC1=C(C(=O)O)C(=CC=C1F)F | C7H3ClF2O2
reactant | 2-(1H-7-azabenzotriazol-1-yl)-1,1,3,3-tetra methyl uronium hexafluorophosphate methanaminium | 2.7 mmol, 1.2 g | C[NH3+].F[P-](F)(F)(F)(F)F.N1(N=NC2=C1N=CC=C2)OC(=[N+](C)C)N(C)C.F[P-](F)(F)(F)(F)F
reactant | N,N-diisopropyl-ethylamine | 6.75 mmol, 1.17 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | DMF | 6 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-(4-bromobenzyl)-2-chloro-3,6-difluorobenzamide | BrC1=CC=C(CNC(C2=C(C(=CC=C2F)F)Cl)=O)C=C1 | C14H9BrClF2NO
